US09382238B2
To a mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (150 mg, 0.365 mmol), 1-methyl-3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-amine (83 mg, 0.401 mmol) in pyridine (3 mL) was added T3P® (EA solvate) (0.3 mL, 0.365 mmol) at 25° C. Then the mixture was stirred for 2 h, the mixture was concentrated to give the residue which was distributed between DCM (20 mL) and H2O (10 mL) and extracted with DCM (20 mL×2). The combined organic extracts were washed with brine (20 mL), dried over Na2SO4, filtered and concentrated to yield a white solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(1-methyl-3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-yl)acetamide (150 mg, 0.225 mmol, 61.7% yield): 1H NMR (400 MHz, CD3OD) δ 8.52 (d, J=4.4 Hz, 1H), 7.94 (d, J=2.0 Hz, 1H), 7.44-7.41 (m, 3H), 7.39 (d, J=8.8 Hz, 2H), 6.90 (d, J=8.8 Hz, 2H), 6.27 (s, 1H), 5.35 (s, 2H), 4.13 (q, J=7.1 Hz, 2H), 3.83 (s, 2H), 3.78 (s, 3H), 3.72-3.67 (m, 3H), 1.47 (s, 6H), 1.41 (t, J=7.0 Hz, 3H). ES-LCMS m/z 601 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.365 mmol, 150 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 1-methyl-3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-amine | 0.401 mmol, 83 mg | CN1N=C(C=C1N)C(C(F)(F)F)(C)C | C8H12F3N3
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | 10 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(1-methyl-3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-yl)acetamide | 0.225 mmol, 150 mg, 61.7% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NN1C)C(C(F)(F)F)(C)C)F | C31H32F4N4O4
